US05036086
Preparation of 6-fluoro-2-(methoxyacetylamino)benzothiazole:
2-Amino-6-fluorobenzothiazole (3.3 g) is dissolved in pyridine (80 ml) and thereto is added dropwise methoxyacetyl chloride (2.0 ml) at room temperature. After the mixture is stirred at room temperature for 2 hours, the solvent is distilled off. The resulting solids are washed with water, then with diethyl ether, dried and recrystallized from ethanol to give the title compound (3.5 g) having the following physical properties.

reactant | 2-Amino-6-fluorobenzothiazole | 3.3 g | NC=1SC2=C(N1)C=CC(=C2)F | C7H5FN2S
reactant | methoxyacetyl chloride | 2.0 ml | COCC(=O)Cl | C3H5ClO2
solvent | pyridine | 80 ml | N1=CC=CC=C1 | C5H5N
product | 6-fluoro-2-(methoxyacetylamino)benzothiazole | 3.5 g | FC1=CC2=C(N=C(S2)NC(COC)=O)C=C1 | C10H9FN2O2S
